US09227985B2
A mixture of 2-{1-[(2-azido-3-nitrophenoxy)methyl]vinyl}pyridine (250 mg, 0.84 mmol) in benzene (15 mL) was refluxed at 80° C. for 15 h. The reaction was concentrated to give the crude product. The product was purified by FCC on silica gel eluting with a hexane:ethyl acetate gradient to give 7-nitro-1a-pyridin-2-yl-1a,2-dihydro-1H-azireno[2,1-c][1,4]benzoxazine as a solid (0.225 g, 90%). LCMS calculated for C14H12N3O3 (M+H)+: m/z=270.1. found: 270.1.

reactant | 2-{1-[(2-azido-3-nitrophenoxy)methyl]vinyl}pyridine | 0.84 mmol, 250 mg | N(=[N+]=[N-])C1=C(OCC(=C)C2=NC=CC=C2)C=CC=C1[N+](=O)[O-] | C14H11N5O3
solvent | benzene | 15 mL | C1=CC=CC=C1 | C6H6
product | 7-nitro-1a-pyridin-2-yl-1a,2-dihydro-1H-azireno[2,1-c][1,4]benzoxazine | 0.225 g, 90% | [N+](=O)([O-])C1=CC=CC2=C1N1C(CO2)(C1)C1=NC=CC=C1 | C14H11N3O3
